US05451681
Preparation of 6-hydroxy-2-mercaptobenzoxazole
Carbon disulphide (0.9 ml, 15 mmol) was added to a solution of potassium hydroxide (0.65 g, 11 mmol) in a mixture of water (1 ml) and methanol (10 ml), followed by 4-nitro 1,2-benzenediol (1.5 g, 10 mmol). To this mixture was added dropwise a solution of sodium dithionite (6,5 g, 30 mmol) and potassium hydroxide (3.9 g, 70 mmol) in water (50 ml); strong heat evolution was observed. After 10 minutes, carbon disulphide (0.9 ml, 15 mmol) was added and the mixture heated to 75° C. for 3 hours. The mixture was then cooled in an ice bath and the precipitate filtered off. The filtrate was acidified to approximately pH3 with concentrated hydrochloric acid and the yellow precipitate was collected, washed with water and air dried. The yield was 1.05 g (65%).

reactant | Carbon disulphide | 15 mmol, 0.9 ml | C(=S)=S | CS2
reactant | potassium hydroxide | 11 mmol, 0.65 g | [OH-].[K+]
reactant | 4-nitro 1,2-benzenediol | 10 mmol, 1.5 g | [N+](=O)([O-])C=1C=C(C(=CC1)O)O | C6H5NO4
reactant | sodium dithionite | 30 mmol, 6,5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | potassium hydroxide | 70 mmol, 3.9 g | [OH-].[K+]
reactant | carbon disulphide | 15 mmol, 0.9 ml | C(=S)=S | CS2
solvent | water | 1 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 6-hydroxy-2-mercaptobenzoxazole | OC1=CC2=C(N=C(O2)S)C=C1 | C7H5NO2S
